US07858796B2
(15) 5-bromo-3-(4-piperidinyl)-1H-indole-7-carboxamide
To a solution of 1,1-dimethylethyl 4-[7-(aminocarbonyl)-5-bromo-1H-indol-3-yl]-1-piperidinecarboxylate (1.56 g, 3.7 mmol) in methanol (10 mL), HCl in dioxane (4M, 35.5 mL) was added. The reaction mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure and the resulting residue was partitioned between ethyl acetate (50 mL) and 5% of aqueous NaOH (50 mL). The aqueous layer washed with ethyl acetate (2×50 mL) and the combined organic phases were dried and concentrated under reduced pressure to give desired product (685 mg, 58%), which was used in the next step without further purification.

reactant | 1,1-dimethylethyl 4-[7-(aminocarbonyl)-5-bromo-1H-indol-3-yl]-1-piperidinecarboxylate | 3.7 mmol, 1.56 g | NC(=O)C=1C=C(C=C2C(=CNC12)C1CCN(CC1)C(=O)OC(C)(C)C)Br | C19H24BrN3O3
solvent | MeOH | 10 mL | CO | CH4O
solvent | HCl | Cl | ClH
solvent | dioxane | 4M, 35.5 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-3-(4-piperidinyl)-1H-indole-7-carboxamide | 685 mg, 58% | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C14H16BrN3O
